US07592475B2
Preparation of 4,4′-dimethyl-stilbene
2.4 g(5.37 mmol) of (4-methylbenzyl)triphenylphosphonium bromide and 0.98 g(60%, 24.4 mmol) of NaH were refluxed in toluene for 6 hours. After cooled down, 0.586 g(4.88 mmol) of 4-methylbenzaldehyde was introduced gradually to the solution to be refluxed again for 6 hours. The resulted product was treated with water to be extracted with ethyl acetate. The solvent was distilled off and the residue was recrystallized in ethanol. Yield; 71%.

reactant | (4-methylbenzyl)triphenylphosphonium bromide | 5.37 mmol, 2.4 g | [Br-].CC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | NaH | 24.4 mmol, 0.98 g | [H-].[Na+]
reactant | 4-methylbenzaldehyde | 4.88 mmol, 0.586 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,4′-dimethyl-stilbene | Yield; 71% | CC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C | C16H16
